US04308270
To 3.46 g. of 3-phenyl-6-tosyloxymethyl-5,6-dihydro-4H-1,2,4-oxadiazine 1.33 g. of 1,2,3,4-tetrahydro-isoquinoline, 1.38 g. of anhydrous potassium carbonate and 30 ml. of chlorobenzene are added. The reaction mixture is refluxed for 2 hours, whereupon it is decolored and filtered while hot. Upon cooling 1.95 g. of 3-phenyl-6-(1,2,3,4-tetrahydro-2-isoquinolyl)-methyl-5,6-dihydro-4H-1,2,4-oxadiazine are obtained in crystalline form. The product has the same properties as the product of Example 4. Melting point: 187° to 189° C.

reactant | 3-phenyl-6-tosyloxymethyl-5,6-dihydro-4H-1,2,4-oxadiazine | 1.33 g | C1(=CC=CC=C1)C1=NOC(CN1)COS(=O)(=O)C1=CC=C(C)C=C1 | C17H18N2O4S
reactant | 1,2,3,4-tetrahydro-isoquinoline | C1NCCC2=CC=CC=C12 | C9H11N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | chlorobenzene | ClC1=CC=CC=C1 | C6H5Cl
product | 3-phenyl-6-(1,2,3,4-tetrahydro-2-isoquinolyl)-methyl-5,6-dihydro-4H-1,2,4-oxadiazine | C1(=CC=CC=C1)C1=NOC(CN1C)N1CC2=CC=CC=C2CC1 | C19H21N3O
